US09284284B2
c) 3-(2-Methoxy-ethoxy)-7H-[1,7]naphthyridin-8-one
5-(2-Methoxy-ethoxy)-3-methyl-pyridine-2-carboxylic acid 1-dimethylamino-meth-(E)-ylideneamine (500 mg, 1.885 mmol) was dissolved in THF (15 ml) and heated to gentle reflux. KOtBu (317 mg, 2.83 mmol) in THF (30 ml) was added dropwise and the reaction mixture was heated to reflux for 2.5 h and then cooled to rt. The pH was adjusted to 7 with concentrated HCl. The reaction mixture was concentrated.

reactant | 5-(2-Methoxy-ethoxy)-3-methyl-pyridine-2-carboxylic acid 1-dimethylamino-meth-(E)-ylideneamine | 1.885 mmol, 500 mg | CN(\C=N\[H])C.COCCOC=1C=C(C(=NC1)C(=O)O)C
reactant | KOtBu | 2.83 mmol, 317 mg | CC(C)(C)[O-].[K+]
reactant | HCl | Cl | ClH
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 3-(2-Methoxy-ethoxy)-7H-[1,7]naphthyridin-8-one | COCCOC=1C=NC=2C(NC=CC2C1)=O | C11H12N2O3
